US07750154B2
N-Cyclopropyl-3-[6-{[(2S)-1-glycoloylpyrrolidin-2-yl]methoxy}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide (AZ12312960)
N-Cyclopropyl-4-methyl-3-[4-oxo-6-[(2S)-pyrrolidin-2-ylmethoxy]quinazolin-3(4H)-yl]benzamide (0.20 g), triethylamine (0.133 ml), and acetoxyacetyl chloride (0.077 ml) were stirred in methylene chloride (2 ml) under argon at room temperature for 30 minutes. A solution of 2N NaOH (2 ml) and methanol (2 ml) was added to the reaction mixture and stirring continued for 1 hour at room temperature. The reaction mixture was diluted with methylene chloride and washed with brine, dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting with 5% methanol/ethyl acetate to give the title compound (0.113 g) as a white foam solid; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.70 (m, 2H), 1.83-2.10 (m, 4H), 2.14 (s, 3H), 2.86 (m, 1H), 3.40 (m, 2H), 4.05 (m, 3H), 4.25 (m, 1H), 4.32 (m, 1H), 4.52 (t, 1H), 7.53 (m, 2H), 7.60 (s, 1H), 7.74 (d, 1H), 7.84 (s, 1H), 7.91 (d, 1M, 8.19 (s, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 477.

reactant | N-Cyclopropyl-4-methyl-3-[4-oxo-6-[(2S)-pyrrolidin-2-ylmethoxy]quinazolin-3(4H)-yl]benzamide | 0.20 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC[C@H]1NCCC1)=O | C24H26N4O3
reactant | triethylamine | 0.133 ml | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 0.077 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | NaOH | 2N, 2 ml | [OH-].[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
product | N-Cyclopropyl-3-[6-{[(2S)-1-glycoloylpyrrolidin-2-yl]methoxy}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide | 0.113 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC[C@H]1N(CCC1)C(CO)=O)=O | C26H28N4O5
